US07745452B2
To a −18° C. solution of 6-chloro-4-(4-bromophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (1 g, 2.3 mmol) in anhydrous THF (10 mL) was added triethylamine (1.6 mL, 11 mmol). The reaction was stirred for 5 min and then thionyl chloride (0.18 mL, 2.5 mmol) was added dropwise. After 10 min, 1M ethylmagnesium bromide in THF (9 mL, 9 mmol) was added. The reaction mixture was warmed from −18° C. to 0° C. and allowed to stir for 30 min and then quenched with 15 mL 1N aqueous HCl and extracted with 50 mL ethyl acetate. The organic layer was washed with brine (60 mL), dried over MgSO4, filtered, and concentrated in vacuo. Purification by normal phase chromatography (90 g silica gel cartridge, linear gradient 10-70% EtOAc/hexanes) gave 6-chloro-4-ethyl-4-(4-bromophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one as an off-white solid. 1H NMR (CDCl3, 500 MHz) δ 8.41 (s, NH); 7.53 (br d, 2H, J=8.79 Hz); 7.28 (br d, 2H, J=8.54 Hz); 7.11 (dd, 1H, J=8.54 and 2.19 Hz); 6.69 (d, 1H, J=8.55 Hz); 6.46 (d, 1H, J=2.20 Hz); 3.87 (dq, 1H, J=9.28 and 16 Hz); 3.52 (dq, 1H, J=8.30 and 17 Hz); 2.39 (dq, 1H, J=7.08 and 14 Hz); 2.22 (dq, 1H, J=7.08 and 14 Hz); 0.90 (t, J=7.08 Hz, 3H); MS (Electrospray): m/z 447.1 (M+H, Br=79).

reactant | 6-chloro-4-(4-bromophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 2.3 mmol, 1 g | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(O)C1=CC=C(C=C1)Br | C16H11BrClF3N2O2
reactant | triethylamine | 11 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 2.5 mmol, 0.18 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethylmagnesium bromide | 1M | C(C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mmol, 9 mL | C1CCOC1 | C4H8O
product | 6-chloro-4-ethyl-4-(4-bromophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=C(C=C1)Br)CC | C18H15BrClF3N2O
